US09421276B2
Methyl 6-azidohexanoate was synthesized via a modified literature procedure. A reaction mixture of methyl 6-bromohexanoate (6 g, 29 mmol) and NaN3 (9.4 g, 144 mmol) in 30 ml of DMF was stirred at 75° C. for 14 h under N2. After cooling down, the reaction mixture was poured into water. The product was extracted with hexane, washed with brine, and dried under MgSO4. Solvent was evaporated to give transparent liquid. Yield: 95%.

reactant | methyl 6-bromohexanoate | 29 mmol, 6 g | BrCCCCCC(=O)OC | C7H13BrO2
reactant | NaN3 | 144 mmol, 9.4 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Methyl 6-azidohexanoate | Yield: 95% | N(=[N+]=[N-])CCCCCC(=O)OC | C7H13N3O2
